US08623239B2
Synthesis of 9-Benzothienylphenanthridine
Benzo[b]thiophene-2-ylboronic acid (884 mg, 5.0 mmol) and 9-chlorophenanthridin (1.0 g, 4.8 mmol) were dissolved in tetrahydrofuran (30 ml), and palladium catalyst (160 mg, 0.14 mmol) and 2M sodium carbonate solution (20 ml) were added, followed by refluxing under a N2 atmosphere for 5 hours. The reaction solution was added to H2O and the mixture was extracted with chloroform, followed by drying with sodium sulfate. After filtration, the filtrate was evaporated to dryness under reduced pressure. The obtained solid was purified by column chromatography (eluent: chloroform) (amount: 1.15 g, yield: 78%).

reactant | Benzo[b]thiophene-2-ylboronic acid | 5.0 mmol, 884 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | 9-chlorophenanthridin | 4.8 mmol, 1.0 g | ClC=1C=CC2=CN=C3C=CC=CC3=C2C1 | C13H8ClN
reactant | sodium carbonate | 2M, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | H2O | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | palladium | 0.14 mmol, 160 mg | [Pd] | Pd
product | 9-Benzothienylphenanthridine | yield: 78% | S1C(=CC2=C1C=CC=C2)C=2C=CC1=CN=C3C=CC=CC3=C1C2 | C21H13NS
